US04284631
Ethyl 2-(4-fluorobenzyloxyimino)-3-oxobutyrate (syn isomer, 64.0 g.) and sulfuryl chloride (35.6 g.) and acetic acid (70.0 ml.) were treated in a similar manner to that of Example A - (2) to give ethyl 4-chloro-2-(4-fluorobenzyloxyimino)-3-oxobutyrate (syn isomer, 29.55 g.).

reactant | Ethyl 2-(4-fluorobenzyloxyimino)-3-oxobutyrate | 64.0 g | FC1=CC=C(CON=C(C(=O)OCC)C(C)=O)C=C1 | C13H14FNO4
reactant | sulfuryl chloride | 35.6 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 70.0 ml | C(C)(=O)O | C2H4O2
product | ethyl 4-chloro-2-(4-fluorobenzyloxyimino)-3-oxobutyrate | 29.55 g | ClCC(C(C(=O)OCC)=NOCC1=CC=C(C=C1)F)=O | C13H13ClFNO4
